US06977262B2
To a solution of acetonitrile (76 g) in DMSO (100 mL) was added methyl p-anisate (100 g) and the mixture was stirred with heating at 60° C. for one hour. The reaction mixture was allowed to cool, and cold water (500 mL) was added dropwise. The mixture was acidified with hydrochloric acid and the precipitated crystals were collected by filtration. The obtained crystals were extracted with ethyl acetate and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate to give benzoylacetonitrile (60 g) as colorless crystals. A solution of 2-chlorobenzaldehyde (1.7 g), 3-aminopyrazole (1.0 g) and benzoylacetonitrile (1.8 g) in acetonitrile (20 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration to give the title compound (2.63 g) as colorless crystals.

reactant | acetonitrile | 76 g | C(C)#N | C2H3N
reactant | methyl p-anisate | 100 g | C(C1=CC=C(C=C1)OC)(=O)OC | C9H10O3
reactant | water | 500 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | benzoylacetonitrile | 60 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
